US04413002
Ethyl 2-bromo-9-tetrahydropyranyloxy-nonanoate (2.5 g) and 3-hydroxy-3-methylnonylamine (2.2 g) were refluxed together in dry ethanol (50 ml) containing sodium carbonate (726 mg) overnight. The ethanol was evaporated in vacuo and the residue was partitioned between ether and brine. The ether solution was washed with brine, dried and evaporated in vacuo. The resulting yellow gum was chromatographed on silica gel (100 g) using chloroform as eluant to give ethyl 2-(3'-hydroxy-3'-methyl-n-nonyl)amino-9-tetrahydropyranyloxy-nonanoate (1.27 g) as a colourless gum.

reactant | Ethyl 2-bromo-9-tetrahydropyranyloxy-nonanoate | 2.5 g | BrC(C(=O)OCC)CCCCCCCOC1OCCCC1 | C16H29BrO4
reactant | 3-hydroxy-3-methylnonylamine | 2.2 g | OC(CCN)(CCCCCC)C | C10H23NO
reactant | sodium carbonate | 726 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-(3'-hydroxy-3'-methyl-n-nonyl)amino-9-tetrahydropyranyloxy-nonanoate | 1.27 g | OC(CCNC(C(=O)OCC)CCCCCCCOC1OCCCC1)(CCCCCC)C | C26H51NO5
